US04564690
5.28 g (0.11 mol) of sodium hydride was added to 50 ml of dry tetrahydrofuran, and to this solution was added dropwise a mixed solution of 17.6 g (0.11 mol) of diethyl malonate and 10.0 g (0.027 mol) of bis(2-iodoethoxy)ethane, followed by 2-hour reflux under heating. After the reaction, the most part of tetrahydrofuran was distilled off and the residue was added with 10 ml of water, neutralized by adding 1N hydrochloric acid and extracted three times with 50 ml of ether. After drying the extract, ether was distilled off and the oily product was passed through a silica gel packed column and eluted with petroleum ether-ether (4:1) to obtain 7.23 g of bis(3,3-dicarboethoxypropoxy)ethane, (EtO2C)2CHCH2CH2OCH2CH2 -OCH2CH2CH(CO2Et)2 (yield: 60%). The property analyses of this compound showed the following results.

reactant | sodium hydride | 0.11 mol, 5.28 g | [H-].[Na+]
reactant | diethyl malonate | 0.11 mol, 17.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | bis(2-iodoethoxy)ethane | 0.027 mol, 10.0 g | ICCOC(C)OCCI | C6H12I2O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | bis(3,3-dicarboethoxypropoxy)ethane | 7.23 g | C(=O)(OCC)C(CCOC(C)OCCC(C(=O)OCC)C(=O)OCC)C(=O)OCC | C20H34O10
